US07344702B2
Synthesis of 2-tert-butyl-4-chloro-5-(2-fluoro-1-(4-tert-butylphenyl)-1-ethyl)oxy-3(2H)-pyridazinone
To a 15 ml round bottom flask charged with 2-tert-butyl-4-chloro-5-(2-p-toluenesulfonyloxy-1-(4-tert-butylphenyl)-1-ethyl)oxy-3(2H)-pyridazinone (0.2 g, 0.375 mmol) is added 3.75 ml of tetrabutylammonium fluoride solution (1M in THF, 3.75 mmol). The mixture is first stirred at room temperature for 15 minutes after which it is heated for 15 minutes at 100° C. The solution is then cooled to room temperature and to it is added dichloromethane followed by water. The layers were separated and the organic layer is washed with water and then dried. The organic layer is then concentrated and subjected to purification using silica gel flash chromatography (ethyl acetate/hexanes) to obtain the above compound.

reactant | 2-tert-butyl-4-chloro-5-(2-p-toluenesulfonyloxy-1-(4-tert-butylphenyl)-1-ethyl)oxy-3(2H)-pyridazinone | 0.375 mmol, 0.2 g | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)OC(COS(=O)(=O)C1=CC=C(C=C1)C)C1=CC=C(C=C1)C(C)(C)C | C27H33ClN2O5S
reactant | tetrabutylammonium fluoride | 3.75 mmol, 1M, 3.75 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 2-tert-butyl-4-chloro-5-(2-fluoro-1-(4-tert-butylphenyl)-1-ethyl)oxy-3(2H)-pyridazinone | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)OC(CF)C1=CC=C(C=C1)C(C)(C)C | C20H26ClFN2O2
